US07977331B1
To a solution of tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-carbamoylethyl]carbamate (1.53 g, 4.12 mmol) in tetrahydrofuran (15 ml) was added Lawesson reagent (1.70 g, 4.12 mmol), and the mixture was stirred at room temperature for 5 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:ethyl acetate=8:1-5:1). Diisopropy ether was added to the obtained residue. The precipitated solid was collected by filtration and washed with diisopropy ether. The obtained solid was dried in vacuo to give tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-thiocarbamoylethyl]carbamate (540 mg, yield 34%).

reactant | tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-carbamoylethyl]carbamate | 4.12 mmol, 1.53 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(N)=O)NC(OC(C)(C)C)=O | C21H26N2O4
reactant | Lawesson reagent | 4.12 mmol, 1.70 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-thiocarbamoylethyl]carbamate | 540 mg, yield 34% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(N)=S)NC(OC(C)(C)C)=O | C21H26N2O3S
